US06242422B1
(3RS)-3-[N-((1-Naphthyloxy)Acetyl)Valinyl]Amino-5-Fluoro-4-Oxopentanoic Acid
To a solution of (3RS)-3-[N-((1-naphthyloxy)acetyl)valinyl]amino-5-fluoro-4-oxopentanoic acid, tert-butyl ester (0.113 g, 0.23 mmol) in CH2Cl2(2.0 mL)-anisole(0.5 mL) at room temperature under nitrogen was added trifluoroacetic acid (1.0 mL). The resulting clear solution was stirred at room temperature for 1 hr, evaporated to dryness and chased with toluene-CH2Cl2 (1:1). The residue was purified by flash chromatography on silica gel eluting with AcOH—MeOH—CH2Cl2 (0.5:2:100) to give the title compound (0.069 g, 69%) as a white solid. TLC(AcOH—MeOH—CH2Cl2; 1:1:20) Rf=0.38. MS(ES) for C22H25FN2O6 (MW 432.45): positive 433(M+NH); negative 431(M−H). 1H NMR (CD3OD): δ8.32-8.29 (m, 1H), 7.82-7.79 (m, 1H), 7.49-7.46 (m, 3H), 7.38-7.32 (m, 1H), 6.88 (d, 1H, J=7.7 Hz), 4.78-4.73 (m, 2H), 4.55-4.26 (m, 2H), 2.82-2.76 (m, 2H), 2.16-2.03 (m, 1H), 0.94-0.85 (m, 6H).

reactant | (3RS)-3-[N-((1-naphthyloxy)acetyl)valinyl]amino-5-fluoro-4-oxopentanoic acid, tert-butyl ester | 0.23 mmol, 0.113 g | C1(=CC=CC2=CC=CC=C12)OCC(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(CF)=O | C26H33FN2O6
reactant | anisole | 0.5 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 2.0 mL | C(Cl)Cl | CH2Cl2
product | (3RS)-3-[N-((1-Naphthyloxy)Acetyl)Valinyl]Amino-5-Fluoro-4-Oxopentanoic Acid | 0.069 g, 69% | C1(=CC=CC2=CC=CC=C12)OCC(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)O)C(CF)=O | C22H25FN2O6
